US08207199B2
To a mixture of 6-methylpyridin-3-ol (1.8 g), CDI (2.64 g), and DMSO (18 mL) were added dropwise isonipecotic acid (4.2 g), and a mixture of DMSO (18 mL) and trifluoroacetic acid (2.5 mL), followed by stirring at room temperature for 1 day. To the reaction liquid were added saturated brine and chloroform, and the organic phase was separated. The organic phase was washed with saturated brine twice and then dried over anhydrous sodium sulfate, and the solvent was concentrated under reduced pressure. To the residue was added diisopropyl ether/methanol, and the resulting solid was collected by filtration and dried to obtain 1-{[(6-methylpyridin-3-yl)oxy]carbonyl}piperidine-4-carboxylic acid (3.51 g) as a colorless solid.

reactant | 6-methylpyridin-3-ol | 1.8 g | CC1=CC=C(C=N1)O | C6H7NO
reactant | CDI | 2.64 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | isonipecotic acid | 4.2 g | N1CCC(C(=O)O)CC1 | C6H11NO2
reactant | trifluoroacetic acid | 2.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | brine | [Cl-].[Na+].O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | DMSO | 18 mL | CS(=O)C | C2H6OS
solvent | DMSO | 18 mL | CS(=O)C | C2H6OS
product | 1-{[(6-methylpyridin-3-yl)oxy]carbonyl}piperidine-4-carboxylic acid | 3.51 g | CC1=CC=C(C=N1)OC(=O)N1CCC(CC1)C(=O)O | C13H16N2O4
